US05397785
Synthesis of N-(3-methyl-5,6,7,8-tetrahydrothieno[2,3-b]-quinolin-4-yl)butanamide
To 4.37g of 4-amino-3-methyl-5,6,7,8-tetrahydrothieno[2,3-b]quinoline, were added 8 ml of pyridine and 12.7g of n-butyric anhydride and the mixture was refluxed for 13 hours. The reaction mixture was evaporated to dryness under a reduced pressure, and dissolved in 170 ml of methanol and 40 ml of ethanol. To the solution, was added 70 ml of concentrated ammonia water and the reaction was carried out at 65° C. for 1.5 hours.

reactant | 4-amino-3-methyl-5,6,7,8-tetrahydrothieno[2,3-b]quinoline | 4.37g | NC1=C2C(=NC=3CCCCC13)SC=C2C | C12H14N2S
reactant | n-butyric anhydride | 12.7g | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-methyl-5,6,7,8-tetrahydrothieno[2,3-b]-quinolin-4-yl)butanamide | CC1=CSC2=NC=3CCCCC3C(=C21)NC(CCC)=O | C16H20N2OS
